US05041453
n-propyl-5-hydroxybenzoxazole-2-carboxylate
12.72 g (49.2 mmoles) of 2-carboxy-5-hydroxybenzoxazole is dissolved in 200 ml of n-propanol and 1 drop of concentrated sulfuric acid is added. The mixture is refluxed for 30 hours, concentrated. The resulting solid is suspended in water, neutralized with sodium bicarbonate and filtered, washing the solid with water, then drying. This gives n-propyl-5-hydroxybenzoxazole-2carboxylate which is purified by recrystallization from n-propanol/acetone or by HPLC.

reactant | 2-carboxy-5-hydroxybenzoxazole | 49.2 mmoles, 12.72 g | C(=O)(O)C=1OC2=C(N1)C=C(C=C2)O | C8H5NO4
reactant | n-propanol | 200 ml | C(CC)O | C3H8O
catalyst | sulfuric acid | 1 drop | S(O)(O)(=O)=O | H2O4S
product | n-propyl-5-hydroxybenzoxazole-2-carboxylate | C(CC)OC(=O)C=1OC2=C(N1)C=C(C=C2)O | C11H11NO4
